US06069176
(trans)-N-Benzyl-N-[3-(3-methoxyphenyl)cyclohexyl]amine (6.59 g) was dissolved in ethyl acetate (20 ml), and then 4 N HCl-ethyl acetate solution (20 ml) was added while cooling on ice, and the mixture was stirred at room temperature for 30 minutes. After concentrating the reaction solution under reduced pressure, 10% palladium-carbon (1.3 g) and acetic acid (60 ml) were added for hydrogen addition at an external temperature of 80° C. for 8 hours. After filtering off the solvent from the reaction solution, the solvent was concentrated under reduced pressure (repeated azeotropy with ethanol and toluene) to give 5.40 g of (trans)-3-(3-methoxyphenyl)cyclohexylamine hydrochloride (quantitative yield).

reactant | (trans)-N-Benzyl-N-[3-(3-methoxyphenyl)cyclohexyl]amine | 6.59 g | C(C1=CC=CC=C1)N[C@@H]1C[C@H](CCC1)C1=CC(=CC=C1)OC | C20H25NO
reactant | HCl ethyl acetate | 4 N, 20 ml | Cl.C(C)(=O)OCC
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | (trans)-3-(3-methoxyphenyl)cyclohexylamine hydrochloride | 5.40 g, quantitative yield | Cl.COC=1C=C(C=CC1)[C@@H]1C[C@H](CCC1)N | InChI=1S/C13H19NO.ClH/c1-15-13-7-3-5-11(9-13)10-4-2-6-12(14)8-10;/h3,5,7,9-10,12H,2,4,6,8,14H2,1H3;1H/t10-,12-;/m0./s1
